US07915267B2
A solution of 4-bromobutanoic acid (25.0 g, 150 mmol), DMF (5 drops) and oxalyl chloride (17.0 mL, 195.0 mmol) in dichloromethane (250 mL) was stirred at room temperature for 5 hr. The reaction mixture was concentrated under reduced pressure, dichloromethane (200 mL) and ethanol (9.0 mL, 170 mmol) were added to the residue, and the mixture was stirred at room temperature for 15 hr. The reaction mixture was washed with saturated aqueous sodium hydrogencarbonate and saturated brine, and the organic layer was dried over sodium sulfate, and concentrated. The residue was purified by silica gel column chromatography (0-5% ethyl acetate/hexane) to give ethyl 4-bromobutanoate as a colorless oil (24.5 g, 84%).

reactant | 4-bromobutanoic acid | 150 mmol, 25.0 g | BrCCCC(=O)O | C4H7BrO2
reactant | oxalyl chloride | 195.0 mmol, 17.0 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | ethanol | 170 mmol, 9.0 mL | C(C)O | C2H6O
catalyst | DMF | 5 drops | CN(C)C=O | C3H7NO
solvent | dichloromethane | 250 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | ethyl 4-bromobutanoate | 24.5 g, 84% | BrCCCC(=O)OCC | C6H11BrO2
